US06458781B1
(S)-2-Hydroxy-4-methyl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide:
L-2-hydroxyisocaproic acid (102 mg, 0.77 mmol) was dissolved in DMF (5 mL) and treated with N,N-diisopropylethylamine (0.53 mL, 3.06 mmol), 4,4-bis-(4-fluorophenyl)-butylamine (200 mg, 0.77 mmol), and HBTU (292 mg, 0.77 mmol), then stirred overnight at room temperature. The reaction was diluted with EtOAc (125 mL), washed with saturated bicarbonate solution and brine, dried over Na2SO4, and concentrated. The residue was chromatographed twice on silica gel, eluting with 2-4% MeOH/CH2Cl2 to give 139 mg (48%) of the desired product as an oil. MS: 376.2 (M+1 for C22H27N1O2F2); an oil; TLC (SiO2), Rf 0.73 (8% MeOH/CH2Cl2); HPLC (7:3 CH3CN/H2O with 0.1% TFA, C-18 column) 96.46%, RT=5.448 min.

reactant | L-2-hydroxyisocaproic acid | 0.77 mmol, 102 mg | CC(C)C[C@@H](C(=O)O)O | C6H12O3
reactant | N,N-diisopropylethylamine | 3.06 mmol, 0.53 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4,4-bis-(4-fluorophenyl)-butylamine | 0.77 mmol, 200 mg | FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F | C16H17F2N
reactant | HBTU | 0.77 mmol, 292 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 125 mL | CCOC(=O)C | C4H8O2
product | (S)-2-Hydroxy-4-methyl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide | 139 mg, 48% | FC1=CC=C(C=C1)C(CCCNC([C@H](CC(C)C)O)=O)C1=CC=C(C=C1)F | C22H27F2NO2
